US06740770B2
Preparation of Mono-Perphthalic Acid
Deionized water (125 ml), Na2CO3 (31.0 g, 0.25 mol) and 35% H2O2 (29.15 g, 0.3 mol) are successively charged in a 500 ml four-neck flask, and the mixture was stirred in a dry ice-methanol bath at −5° C.-0° C. Thereto was added phthalic anhydride (37.0 g, 0.25 mol) and the mixture was stirred for 30 min. The bath was removed, ethyl acetate (100 ml) was added to the mixture, and the reaction system was neutralized in a solution obtained by diluting 98% H2SO4 (15 ml) with deionized water (50 ml). After partitioning, the aqueous layer was extracted with ethyl acetate (60 ml). The obtained organic layer (0.64 g) was taken up and saturated NaI-IPA (isopropyl alcohol) solution (5 ml) and 10% acetic acid-IPA solution (20 ml) were added thereto. The mixture was boiled for 5 min. It was titrated with 0.1N aqueous sodium thiosulfate solution. As a result, mono-perphthalic acid was present in 33.5 g and the yield was 76.9%.

reactant | Na2CO3 | 0.25 mol, 31.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O2 | 0.3 mol, 29.15 g | OO | H2O2
reactant | phthalic anhydride | 0.25 mol, 37.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | H2SO4 | 15 ml | OS(=O)(=O)O | H2O4S
solvent | water | 50 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | Mono-Perphthalic Acid | yield was 76.9% | C1=CC=C(C(=C1)C(=O)O)C(=O)OO | C8H6O5
